US08278343B2
Preparation 44: 3-[6-(4-Cyano-phenyl)-pyridin-3-yloxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 4-(5-hydroxy-pyridin-2-yl)-benzonitrile (Preparation 22) and 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 15) to afford the racemate as a white solid (149 mg, 85.2%)

reactant | 4-(5-hydroxy-pyridin-2-yl)-benzonitrile | OC=1C=CC(=NC1)C1=CC=C(C#N)C=C1 | C12H8N2O
reactant | 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CI | C16H20INO4
product | 3-[6-(4-Cyano-phenyl)-pyridin-3-yloxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)COC=1C=NC(=CC1)C1=CC=C(C=C1)C#N | C28H27N3O5
